US05872118
Oxalyl chloride (3 ml, 0.034 mol, Aldrich) was added to a suspension of (E)-2-(7-fluoro-1,2,3,4-tetrahydro-1-naphthylidene)acetic acid (2.03 g, 0.01 mol) in toluene (35 ml) at 0° C. while protected from moisture by a nitrogen atmosphere. The stirring mixture was allowed to warm to 25° C. and was stirred for 1.5 h. Concentration in vacuo gave (E)-2-(7-fluoro-1,2,3,4-tetrahydro-1-naphthylidene)acetyl chloride which was dissolved in dichloromethane and used without purification.

reactant | Oxalyl chloride | 0.034 mol, 3 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (E)-2-(7-fluoro-1,2,3,4-tetrahydro-1-naphthylidene)acetic acid | 0.01 mol, 2.03 g | FC1=CC=C2CCC/C(/C2=C1)=C\C(=O)O | C12H11FO2
solvent | toluene | 35 ml | C1(=CC=CC=C1)C | C7H8
product | (E)-2-(7-fluoro-1,2,3,4-tetrahydro-1-naphthylidene)acetyl chloride | FC1=CC=C2CCC/C(/C2=C1)=C\C(=O)Cl | C12H10ClFO
